US04721559
Benzene (1 equivalent) was reacted with acetyl chloride (0.5 equivalents) in the presence of 0.25 equivalents of gallium triflate catalyst at 50°-60° C. for 1 hour giving 0.35 equivalents of acetophenone.

reactant | Benzene | 1 equivalent | C1=CC=CC=C1 | C6H6
reactant | acetyl chloride | 0.5 equivalents | C(C)(=O)Cl | C2H3ClO
catalyst | gallium triflate | 0.25 equivalents | [O-]S(=O)(=O)C(F)(F)F.[Ga+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | acetophenone | 0.35 equivalents | C(C)(=O)C1=CC=CC=C1 | C8H8O
